US07723333B2
2-tert-Butyl-4-({1-[3-chloro-5-(trifluoromethyl)pyridin-2-yl]piperidin-4-yl}amino)-5-phenylisothiazol-3(2H)-one 1,1-dioxide
2-tert-Butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide (200 mg, 0.667 mmol) was dissolved in dry DMF (2 mL) under nitrogen atmosphere. 1-[3-Chloro-5-(trifluoromethyl)pyridin-2-yl]piperidin-4-amine (188 mg, 0.674 mmol) was added followed by TEA (68 mg, 0.667 mmol) and the reaction mixture was heated in a microwave reactor at 120° C. for 20 mins. The reaction mixture was diluted with EtOAc, washed with saturated aqueous NaHCO3-solution, dried over Na2SO4, filtered and evaporated. The crude product was purified on a Biotage Horizon HPFC system using Heptane and EtOAc as eluant affording the title compound (284 mg, 77.6%). 1H NMR (500 MHz, CDCl3): δ 1.46-1.54 (m, 2H), 1.73-1.79 (m, 1H), 2.51 (t, 2H), 3.12-3.19 (m, 1H), 3.79-3.82 (m, 2H), 5.28 (d, 1H), 7.44-7.46 (m, 3H), 7.53-7.55 (m, 2H), 7.72 (s, 1H), 8.33 (s, 1H); 13C NMR (125 MHz, CDCl3): δ 27.82, 32.36, 47.43, 50.27, 61.80, 107.32, 120.35 (q, J=33.4 Hz), 121.28, 123.48 (q, J=271.3 Hz), 125.36, 128.94, 130.17, 131.85, 134.16, 136.15, 143.10, 159.87, 160.06; Mass Spectrum: M+H+ 543.1.

reactant | 2-tert-Butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.667 mmol, 200 mg | C(C)(C)(C)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | 1-[3-Chloro-5-(trifluoromethyl)pyridin-2-yl]piperidin-4-amine | 0.674 mmol, 188 mg | ClC=1C(=NC=C(C1)C(F)(F)F)N1CCC(CC1)N | C11H13ClF3N3
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-tert-Butyl-4-({1-[3-chloro-5-(trifluoromethyl)pyridin-2-yl]piperidin-4-yl}amino)-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 284 mg, 77.6% | C(C)(C)(C)N1S(C(=C(C1=O)NC1CCN(CC1)C1=NC=C(C=C1Cl)C(F)(F)F)C1=CC=CC=C1)(=O)=O | C24H26ClF3N4O3S
